US07301032B2
1.00 g of 5-chloro-3-methylthio-1,2,4-thiadiazole and 244 mg of {1,1′-bis(diphenylphosphino)ferrocene} dichloro palladium(II) dichloromethane complex were dissolved in 12 ml of tetrahydrofuran under nitrogen atmosphere, 13.2 ml of solution of cyclopentyl zinc bromide in tetrahydrofuran (0.5 mol/l) was added thereto under ice-cooling taking for about 15 minutes, and the reaction mixture was stirred for 13 hours at room temperature. Then, the reaction mixture was concentrated, and the residue subjected to silica gel column chromatography to give 710 mg of 3-methylthio-5-cyclopentyl-1,2,4-thiadiazole.

reactant | 5-chloro-3-methylthio-1,2,4-thiadiazole | 1.00 g | ClC1=NC(=NS1)SC | C3H3ClN2S2
reactant | cyclopentyl zinc bromide | [Br-].C1(CCCC1)[Zn+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mol/l | O1CCCC1 | C4H8O
product | 3-methylthio-5-cyclopentyl-1,2,4-thiadiazole | 710 mg | CSC1=NSC(=N1)C1CCCC1 | C8H12N2S2
